US08609644B2
To a stirred suspension of LiAlH4 (0.247 mg) in THF under N2 (10.5 mL), a solution of 3β-hydroxy-5α,6α-epoxyandrostan-17-one (0.64 g) in THF (20 mL) was added dropwise and the mixture was stirred at reflux for 8 h. The suspension was cooled with an ice bath and then quenched by careful addition of H2O (1 mL) and 4N NaOH (0.20 mL). The mixture was filtered through a Celite pad and the filter cake was washed with THF (3×10 mL). The filtrate was dried over Na2SO4, evaporated to dryness and the residue was purified by flash chromatography (SiO2, n-hexane/CH2Cl2/acetone 40/30/30) to give androstane-3β,5α,17β-triol (0.48 g, 74%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.37 (d, 1H), 4.19 (d, 1H), 3.78 (m, 1H), 3.62 (s, 1H), 3.39 (m, 1H), 1.87-0.80 (m, 21H), 0.86 (s, 3H), 0.59 (s, 3H).

reactant | LiAlH4 | 0.247 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3β-hydroxy-5α,6α-epoxyandrostan-17-one | 0.64 g | O[C@@H]1C[C@]23[C@H](C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)O3 | C19H28O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | androstane-3β,5α,17β-triol | 0.48 g, 74% | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC[C@]3(C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)O | C19H32O3
